US05840722
Methyl 3-benzyloxy-3-phenyl-2-(4,6-dimethoxy-2-pyrimidinyl)oxybutyrate [sic]
3 g (10 mmol) of methyl 3-benzyloxy-3-phenyl-2-hydroxybutyrate (comp. 1.1) are dissolved in 40 ml of dimethylformamide, and 0.3 g (12 mmol) of sodium hydride is added. The mixture is stirred for 1 hour and then 2.2 g (10 mmol) of 4,6-dimethoxy-2-methylsulfonylpyrimidine are added. The mixture is stirred at room temperature for 24 hours and then cautiously hydrolyzed with 10 ml of water, the pH is adjusted to 5 with acetic acid, and the solvent is removed by distillation under high vacuum. The residue is taken up in 100 ml of ethyl acetate, washed with water, dried over sodium sulfate and distilled to remove solvents. 10 ml of methyl t-butyl ether are added to the residue, and the precipitate is filtered off with suction. Drying results in 2.4 g of a white powder.

reactant | methyl 3-benzyloxy-3-phenyl-2-hydroxybutyrate | 10 mmol, 3 g | C(C1=CC=CC=C1)OC(C(C(=O)OC)O)(C)C1=CC=CC=C1 | C18H20O4
reactant | sodium hydride | 12 mmol, 0.3 g | [H-].[Na+]
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 10 mmol, 2.2 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Methyl 3-benzyloxy-3-phenyl-2-(4,6-dimethoxy-2-pyrimidinyl)oxybutyrate | 2.4 g, Yield: 55% | C(C1=CC=CC=C1)OC(C(C(=O)OC)OC1=NC(=CC(=N1)OC)OC)(C)C1=CC=CC=C1 | C24H26N2O6
